US04368335
N'-[2,6-Dichloro-4-(3,5-dimethoxybenzylamino)phenyl]-N,N-dimethylformamidine
A mixture of 5.3 g. of 2,6-dichloro-p-phenylenediamine and 4.98 g. of 3,5-dimethoxybenzaldehyde in 100 ml. of ethanol is heated on a steam bath, solution occurs, followed by crystallization. Warming is continued on the steam bath for 16 hours. The reaction mixture is cooled, 50 ml. of glacial acetic acid and 500 mg. of platinum oxide are added and the mixture is hydrogenated in a Parr apparatus at 40 p.s.i. for 15 minutes. The mixture is filtered and washed with ethanol, then the combined filtrate and washings are evaporated to dryness. The residue is treated with 200 ml. of saturated sodium carbonate then is extracted twice with 200 ml. of ethyl acetate. The combined extract is evaporated to dryness. The residue is dissolved in methanol and the solution is cooled at 5° C. to provide crystals. The crystals are collected by filtration and washed with methanol to give 7.8 g. of product. This product is heated at reflux with 20 ml. of N,N-dimethylformamide dimethylacetal for 18 hours. The resulting solution is evaporated to an amber syrup. The syrup is treated with ether/hexane to crystallize 7.1 g. of the product of the Example as colorless needles, m.p. 124°-125° C.

reactant | 2,6-dichloro-p-phenylenediamine | ClC1=C(C(=CC(=C1)N)Cl)N | C6H6Cl2N2
reactant | 3,5-dimethoxybenzaldehyde | COC=1C=C(C=O)C=C(C1)OC | C9H10O3
reactant | N,N-dimethylformamide dimethylacetal | COC(N(C)C)OC | C5H13NO2
solvent | ethanol | C(C)O | C2H6O
product | N'-[2,6-Dichloro-4-(3,5-dimethoxybenzylamino)phenyl]-N,N-dimethylformamidine | ClC1=C(C(=CC(=C1)NCC1=CC(=CC(=C1)OC)OC)Cl)N=CN(C)C | C18H21Cl2N3O2
